US04956359
2-[1-(1-Phenylethyl)-3-azetidinyloxy]pyridine
The maleate salt of 1-(1-phenylethyl)-3-azetidinol (65 g, 0.22 mole) was partitioned between toluene and dilute sodium hydroxide and was extracted once with toluene. The organic layer was dried (sodium sulfate) and concentrated. The residue was dissolved in 125 ml of dimethylformamide and added dropwise to a stirred suspension of 9.6 g (0.24 mole) of sodium hydride (washed three times with isooctane) in 400 ml of dimethylformamide at 25°-35° C. The solution was heated to 65° C. and 35 g (0.22 mole) of 2-bromopyridine was added dropwise while heating to 75° C. The solution was stirred and heated at 90° C. for 1 hr followed by heating at 120° C. for 2.75 hr. The mixture was stirred at room temperature overnight and concentrated. The residue was partitioned between water and isopropyl ether. The organic layer was washed twice with water, dried (sodium sulfate), filtered and concentrated. Crude yield was 30 g. The residue was distilled to give 8 g of product, bp 128°-134° C./0.01 mm.

reactant | 1-(1-phenylethyl)-3-azetidinol | 0.22 mole, 65 g | C1(=CC=CC=C1)C(C)N1CC(C1)O | C11H15NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydride | 0.24 mole, 9.6 g | [H-].[Na+]
reactant | 2-bromopyridine | 0.22 mole, 35 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(1-Phenylethyl)-3-azetidinyloxy]pyridine | 8 g | C1(=CC=CC=C1)C(C)N1CC(C1)OC1=NC=CC=C1 | C16H18N2O
